US06727264B1
N-(3-{1-[3-(4-BROMOPHENOXY)-3-(4-FLUOROPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 4-bromophenol: ESMS m/e: 553.0 (M+H)+.

reactant | N-(3-{1-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C24H31FN2O2
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
product | N-(3-{1-[3-(4-BROMOPHENOXY)-3-(4-FLUOROPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | BrC1=CC=C(OC(CCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=C(C=C2)F)C=C1 | C30H34BrFN2O2
